US06906075B2
A solution of 35 g (0.18 mole) of cyanobromotoluene and 16.18 g (0.19 mole) of piperidine in 300 mL of anhydrous DMF was treated with 73 g (0.5 mole) of K2CO3 at 50° C. for 2 hr. The reaction mixture was filtered through a plug of Celite, washed with 400 mL of ethyl acetate, and the filtrate was partitioned between ethyl acetate and ½ saturated brine. The organic layer was dried over anhydrous Na2SO4 and concentrated in vacuo, yielding 36 g (0.18 mole) 100% of 2-Piperidin-1-ylmethyl-benzonitrile. 1H NMR (300 MHz, CDCl3) 7.6 (m, 3H), 7.24 (m, 1H), 3.6 (s, 2H), 2.4 (m, 4H), 1.5 (m, 6H).

reactant | cyanobromotoluene | 0.18 mole, 35 g | C(#N)C=1C(=C(C=CC1)C)Br | C8H6BrN
reactant | piperidine | 0.19 mole, 16.18 g | N1CCCCC1 | C5H11N
reactant | K2CO3 | 0.5 mole, 73 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 2-Piperidin-1-ylmethyl-benzonitrile | 0.18 mole, 36 g, 100% | N1(CCCCC1)CC1=C(C#N)C=CC=C1 | C13H16N2
